US06693097B2
To a solution of 4-chloro-2-(4-ethoxy-4-oxo-butyl)-6-morpholinopyrimidine (1.108 g, 3.54 mmol) in 50 mL THF at −78° C., a diisobutylaluminum hydride (DIBAL) solution (4.72 mL1.5 M in Toluene, 7.08 mmol) was slowly added. After addition, the obtained reaction mixture was warmed up slowly to 0° C. and kept at 0° C. for 10 min. After routine workup, flash chromatography was performed to obtain 4-chloro-2-(4-hydroxybutyl)-6-morpholinopyrimidine (0.76 g, 2.80 mmol, 79%) as light yellow solid.

reactant | 4-chloro-2-(4-ethoxy-4-oxo-butyl)-6-morpholinopyrimidine | 3.54 mmol, 1.108 g | ClC1=NC(=NC(=C1)N1CCOCC1)CCCC(=O)OCC | C14H20ClN3O3
reactant | diisobutylaluminum hydride | 7.08 mmol, 5 M | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-chloro-2-(4-hydroxybutyl)-6-morpholinopyrimidine | 2.80 mmol, 0.76 g, 79% | ClC1=NC(=NC(=C1)N1CCOCC1)CCCCO | C12H18ClN3O2
